US04175127
6-(4-Methoxyphenyl)-5-(4-Pyridyl)-2,3-dihydroimidazo[2,1-b]Thiazole-1-Oxide
To 2.4 g of 6-(4-methoxyphenyl)-5-(4-pyridyl)-2,3-dihydroimidazo[2,1-b]thiazole in 200 ml methylene chloride was added 1.34 g of m-chloroperbenzoic acid in 150 ml of methylene chloride at ice-bath temperature. After 10 minutes the reaction mixture was diluted with methylene chloride and washed twice with 100 ml of 5 N sodium carbonate. Evaporation of the dried extracts left a solid which when recrystallized from chloroform-ether gave 1.6 g of the title product, m.p. 165°-170°.

reactant | 6-(4-methoxyphenyl)-5-(4-pyridyl)-2,3-dihydroimidazo[2,1-b]thiazole | 2.4 g | COC1=CC=C(C=C1)C=1N=C2SCCN2C1C1=CC=NC=C1 | C17H15N3OS
reactant | m-chloroperbenzoic acid | 1.34 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 6-(4-Methoxyphenyl)-5-(4-Pyridyl)-2,3-dihydroimidazo[2,1-b]Thiazole-1-Oxide | 1.6 g | COC1=CC=C(C=C1)C=1N=C2S(CCN2C1C1=CC=NC=C1)=O | C17H15N3O2S
